US05157023
1. Z-Lys-Pro-OMe Preparation
50 mmoles (20.7 grams) of dibenzyloxycarbonylconjugated lysine ("Z-lys") in 200 ml of methylene chloride was combined with 50 mmoles (8.3 grams) of proline methyl ester (pro-OMe) in 100 ml dimethyl formamide. The mixture was added to a conical flask and cooled to -5~C with stirring. 50 mmoles (5.5 ml) of N-methyl morpholine was added, followed by the addition of 10.3 grams of dicyclohexyl-carbodiimide in 20 ml of methylene chloride and the reaction mixture was stirred overnight. The mixture was then filtered from urea and the filtrate concentrated in vacuo. The residue was taken up in ethyl acetate and washed successively with sodium bicarbonate solution, water, 1N hydrochloric acid, and water. Ethyl acetate was removed in vacuo and the oily product was saponified without purification.

reactant | lysine | 50 mmoles, 20.7 grams | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | proline methyl ester | 50 mmoles, 8.3 grams | COC([C@H]1NCCC1)=O | C6H11NO2
reactant | N-methyl morpholine | 50 mmoles, 5.5 ml | CN1CCOCC1 | C5H11NO
reactant | dicyclohexyl-carbodiimide | 10.3 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Z-Lys-Pro-OMe | N([C@@H](CCCCN)C(=O)N1[C@H](C(=O)OC)CCC1)C(=O)OCC1=CC=CC=C1 | C20H29N3O5
